US06310056B1
Pivaloyloxymethyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-methoxymethylimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate
To a solution of 40 mg of sodium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-methoxymethylimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate in 0.6 ml of DMF was added 4.2 mg of sodium hydrogen carbonate, and the mixture was cooled to −30° C. under the atmosphere of argon. Pivaloyloxymethyl iodide (34 mg) was added, and the mixture was stirred for 1 hour, diluted with 30 ml of ethyl acetate, and washed with 20 ml of saturated aqueous saline and 20 ml of semi-saturated squeous saline. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to a volume of about 1 ml. The concentrate was purified by column chromatography on silica gel (chloroform:methanol=95:5) to give the title compound was obtained in a yield of 18.4 mg.

reactant | sodium (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-methoxymethylimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 40 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)COC)C(=O)[O-])C1=O.[Na+]
reactant | sodium hydrogen carbonate | 4.2 mg | C(O)([O-])=O.[Na+]
reactant | Pivaloyloxymethyl iodide | 34 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
solvent | DMF | 0.6 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | Pivaloyloxymethyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-methoxymethylimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)COC)C(=O)OCOC(C(C)(C)C)=O)C1=O | C23H29N3O7S
